US07829560B2
3-Fluoro-N-{4-[2-(4-hydroxymethyl-piperidin-1-yl)-ethoxy]-naphthalen-1-yl}-5-piperidin-1-yl-benzamide (Compound B163).
Compound is prepared from N-[4-(2-chloroethoxy)-naphthalen-1-yl]-3-fluoro-5-piperidin-1-yl-benzamide and 4-hydroxymethylpiperidine according to conditions described in general procedure N. 1H NMR 300 MHz (CDCl3) 8.32 (dd, 1H, J=1.5 and 8.4 Hz), 7.88 (s, 1H), 7.83 (d, 1H, J=8.4 Hz), 7.73 (d, 1H, J=8.1Hz), 7.54 (m, 2H), 7.31 (s, 1H), 6.98 (d, 1H, J=8.4 Hz), 6.84 (d, 1H, J=7.8 Hz), 6.76 (d, 1H, J=11.7 Hz), 4.32 (t, 2H, J=5.7 Hz), 3.51 (d, 2H, J=6.3 Hz), 3.28 (m, 4H), 3.1 (m, 2H), 2.99 (t, 2H, J=5.7 Hz), 2.23 (dt, 2H, J=2.7 and 11.4 Hz), 1.32-1.8 (m, 11H).

reactant | N-[4-(2-chloroethoxy)-naphthalen-1-yl]-3-fluoro-5-piperidin-1-yl-benzamide | ClCCOC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC(=C1)N1CCCCC1)F)=O | C24H24ClFN2O2
reactant | 4-hydroxymethylpiperidine | OCC1CCNCC1 | C6H13NO
product | 3-Fluoro-N-{4-[2-(4-hydroxymethyl-piperidin-1-yl)-ethoxy]-naphthalen-1-yl}-5-piperidin-1-yl-benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OCCN2CCC(CC2)CO)C=C(C1)N1CCCCC1 | C30H36FN3O3
